US05958942
i) Synthesis of 1,2-dihydro-3-methyl-1-[4-(benzamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 2.44 g (10.0 mmol) of 1-[4-(amino)butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 2.09 ml (15.0 mmol) of triethylamine in 80 ml of methylene chloride was added, while stirring under ice-cooling, 1.39 ml (12.0 mmol) of benzoyl chloride. The mixture was stirred for 0.5 hour at the same temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1).

reactant | 1-[4-(amino)butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 10.0 mmol, 2.44 g | NCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C13H16N4O
reactant | triethylamine | 15.0 mmol, 2.09 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 12.0 mmol, 1.39 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-3-methyl-1-[4-(benzamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNC(C2=CC=CC=C2)=O)=O | C20H20N4O2
